US08664417B2
In a specific embodiment, a silylferrocene compound such as 4-(dimethylsilyl)butylferrocene can be prepared. The process for the preparation of 4-(dimethylsilyl)butylferrocene comprises (a) treating ferrocene with 4-chlorobutyryl chloride, in the presence of aluminum chloride catalyst and an organic solvent to obtain the acylated product, 4-chlorobutyroylferrocene; (b) reduction of 4-chlorobutyroylferrocene to yield 4-chlorobutylferrocene, using without limitation a Clemmensen type reduction; (c) treating 4-chlorobutylferrocene with a metal such as a magnesium under Grignard reaction conditions to form the corresponding Grignard intermediate compound which when reacted with chlorodimethylsilane in-situ yields 4-(dimethylsilyl)butylferrocene.

reactant | silylferrocene | [SiH3][C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | 4-(dimethylsilyl)butylferrocene | C[SiH](CCCC[C-]1C=CC=C1)C.[CH-]1C=CC=C1.[Fe+2]
reactant | ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
catalyst | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 4-chlorobutyroylferrocene | ClCCCC(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C9H10ClO.C5H5.Fe/c10-7-3-6-9(11)8-4-1-2-5-8;1-2-4-5-3-1;/h1-2,4-5H,3,6-7H2;1-5H;/q2*-1;+2
